US05134142
A mixture of 1-(4-fluorophenyl)-5-[4-(methylthio)phenyl]pyrazole-3-carboxylic acid (3 g) and 1,1'-carbonyldiimidazole (1.6 g) in tetrahydrofuran (39 ml) was refluxed for 1 hour. Dimethylamine hydrochloride (1.04 g) and potassium carbonate (1.33 g) were added, and the resulting mixture was stirred and refluxed for 3 hours. The mixture was diluted with ethyl acetate, washed with water, an aqueous solution of sodium bicarbonate, dilute hydrochloric acid and water, successively, dried and concentrated to give a pale brown oil of 1-(4-fluorophenyl)-N,N-dimethyl-5-[4-(methylthio)phenyl]pyrazole-3-carboxamide (2.6 g).

reactant | 1-(4-fluorophenyl)-5-[4-(methylthio)phenyl]pyrazole-3-carboxylic acid | 3 g | FC1=CC=C(C=C1)N1N=C(C=C1C1=CC=C(C=C1)SC)C(=O)O | C17H13FN2O2S
reactant | 1,1'-carbonyldiimidazole | 1.6 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | Dimethylamine hydrochloride | 1.04 g | Cl.CNC
reactant | potassium carbonate | 1.33 g | C([O-])([O-])=O.[K+].[K+]
solvent | tetrahydrofuran | 39 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-(4-fluorophenyl)-N,N-dimethyl-5-[4-(methylthio)phenyl]pyrazole-3-carboxamide | 2.6 g | FC1=CC=C(C=C1)N1N=C(C=C1C1=CC=C(C=C1)SC)C(=O)N(C)C | C19H18FN3OS
